US05880130
A mixture of 6-chloro-4-[4'-(2-hydroxyethoxy)anilino]pyrimidine (1.0 g), 3-methylaniline (5 ml) and NMP (20 ml) was stirred and heated to 140° C. for 72 hours. The mixture was cooled and partitioned between ethyl acetate and water. The precipitate was removed by filtration, the ethyl acetate fraction chromatographed on silica and the combined products extracted with boiling ethyl acetate. The product was recrystallised from a mixture of ethyl acetate and hexane to give 4-[4'-(2-hydroxyethoxy)anilino]6-(3'-methylanilino)pyrimidine in 20% yield, m.p. 196°-199° C.;

reactant | 6-chloro-4-[4'-(2-hydroxyethoxy)anilino]pyrimidine | 1.0 g | ClC1=CC(=NC=N1)NC1=CC=C(C=C1)OCCO | C12H12ClN3O2
reactant | 3-methylaniline | 5 ml | CC=1C=C(N)C=CC1 | C7H9N
solvent | NMP | 20 ml | CN1CCCC1=O | C5H9NO
product | 4-[4'-(2-hydroxyethoxy)anilino]6-(3'-methylanilino)pyrimidine | 20% yield | OCCOC1=CC=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=C1 | C19H20N4O2
